US07285684B2
The mixture of 9.3 g (100 mmol) of 2-methylpyridine, 1.6 g (10 mmol) of N-hydroxyphthalimide, 0.15 g (0.5 mmol) of cobalt(II)acetylacetonato, 250 mL of acetic acid was reacted at 100° C. for 6 hours in an atmosphere of oxygen to obtain 2-pyridinecarboxylic acid (picolinic acid: yield 77%) with 2-methylpyridine conversion of 82%. From the reaction mixture, acetic acid was distilled off. 400 mL of benzonitrile and 400 mL of water were added thereto, shaken sufficiently, and allowed to stand to be separated into two liquid phases. To the resultant organic layer was further added 400 mL of water, shaken sufficiently, and allowed to stand to be separated into two liquid phases. The aqueous layer and the organic layer were analyzed by a liquid chromatography, and as a result, the extraction ratio of N-hydroxyphthalimide (on basis of N-hydroxyphthalimide contained in the reaction mixture) into the organic layer was 83%, the extraction ratio of phthalimide into the organic layer was 85%, the extraction ratio of phthalic acid into the organic layer was 66%, and the extraction ratio of cobalt(II)acetylacetonato (on basis of cobalt(II)acetylacetonato contained in the reaction mixture) into the aqueous layer was 97%.

reactant | 2-methylpyridine | 100 mmol, 9.3 g | CC1=NC=CC=C1 | C6H7N
reactant | N-hydroxyphthalimide | 10 mmol, 1.6 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | oxygen | O=O | O2
reactant | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
product | 2-pyridinecarboxylic acid | yield 77% | N1=C(C=CC=C1)C(=O)O | C6H5NO2
